US08431695B2
Step 3: Preparation of tert-butyl 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,6-dihydropyridine-1(2H)-carboxylate
To a stirred suspension of 5-(2-benzyl-2H-indazol-6-yl)-7-bromopyrrolo[2,1-f][1,2,4]triazin-4-amine (660 mg, 1.57 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (see Eastwood, P. R. Tetrahedron Lett 2000, 41, 3705 for preparation) (730 mg, 2.36 mmol), and 1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II)-complex with dichloromethane (115 mg, 0.16 mmol) in degassed DME (12 mL) was added aqueous Na2CO3 solution (2 M, 2.4 mL). The reaction was heated (75° C.) for 17 h and was then cooled to rt. The mixture was partitioned between ethyl acetate (25 mL) and H2O (25 mL). The layers were separated and the organic layer was washed with brine, dried (Na2SO4), and concentrated to dryness. The crude residue was purified by ISCO® chromatography using a gradient of 50 to 75% ethyl acetate in hexanes to afford 564 mg (69%) of the desired product, which was approximately 50% pure. ES-MS m/z 522.12 [M+H]+, HPLC RT (min) 3.20.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-bromopyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.57 mmol, 660 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)Br | C20H15BrN6
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 2.36 mmol, 730 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | dichloromethane | 0.16 mmol, 115 mg | ClCCl | CH2Cl2
reactant | Na2CO3 | 2 M, 2.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloro palladium(II) | Cl[Pd]Cl
product | tert-butyl 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,6-dihydropyridine-1(2H)-carboxylate | 564 mg, 69% | NC1=NC=NN2C1=C(C=C2C=2CCN(CC2)C(=O)OC(C)(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C30H31N7O2
